Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Aphasia
 
Major Surgical or Invasive Procedure:
tPA given as OSH

 
History of Present Illness:
Ms. ___ is a ___ year old female with hypertension and CAD
who presented with acute onset aphasia. She had gone to a wake 
in
the morning, and she was at a friend's house in the afternoon.
Around 130pm, apparently she began to not make sense and she
vomited. When her daughter arrived around 215pm, she says that
the patient was sitting on the couch, slumped over the right, 
and
she was not talking. When she arrived at ___, her
daughter says that the patient was not understanding what the
other doctors were saying. She was also not moving her right 
side
as much. Her initial NIHSS was apparently 28, and she received
TPA at 352pm. Her daughter says that she began to improve
subsequently, and the patient was transferred to ___.
  
Currently, she denies headache. She is complaining of blurry
vision, saying that she needs her glasses, but also notes
difficulty seeing objects on the right. She denies weakness and
numbness.

 
Past Medical History:
Hypertension
CAD

 
Social History:
___
Family History:
No family history of neurological disorders.
  

 
Physical Exam:
ADMISSION EXAM:
General: Awake, NAD.  
HEENT: NC/AT, no scleral icterus noted, MMM
Neck: Supple
Pulmonary: No increased WOB
Cardiac: RRR
Abdomen: soft, non-distended
Skin: no rashes or lesions noted.  
  
Neurologic:  
-Mental Status: Alert, unable to say where she is or what date 
it
is, she is fluent but perseverative, intact repetition, frequent
paraphasic errors, unable to name objects, speech was not
dysarthric, able to follow simple midline commands but not
crossing midline or two step commands. There was no evidence of
neglect.  
  
 -Cranial Nerves: II: PERRL 3 to 2mm and brisk. To finger
counting in the right visual field she will say "one" regardless
of the number and less consistent blink to threat, III, IV, VI:
No gaze preference. EOMI without nystagmus. Normal saccades. 
VII:
No facial droop, facial musculature symmetric. IX, X: Palate
elevates symmetrically. XI: ___ strength in trapezii and SCM
bilaterally. XII: Tongue protrudes in midline with normal
strength  
  
-Motor: Normal bulk, tone throughout. No pronator drift.
 Delt Bic Tri WrE IO IP Quad Ham TA Gastroc
L 5    ___  ___    5   5    5
R 5    ___  ___    5   5    5
  
-Sensory: intact to light touch

 -DTRs:  
  Tri ___ Pat Ach  
L  2   2     1   Tr
R  2   2     1   Tr
Plantar response was mute bilaterally.  
  
-Coordination: FNF without dysmetria, mild postural tremor

-Gait: Deferred
  

 
Pertinent Results:
ADMISSION LABS:
___ 08:10PM   GLUCOSE-160* NA+-139 K+-4.3 CL--99 TCO2-24
___ 08:07PM   CREAT-1.3*
___ 07:50PM   UREA N-28*
___ 07:50PM   WBC-13.4*# RBC-4.25 HGB-13.7 HCT-40.1 MCV-94 
MCH-32.2* MCHC-34.2 RDW-13.1 RDWSD-44.7
___ 07:50PM   PLT COUNT-247
___ 07:50PM   ___ PTT-28.9 ___

Radiologic Data:  
Non-Contrast CT of Head:  
No acute intracranial process.  White matter hypodensities,
likely sequela of chronic small vessel disease. 

MRI Brain ___:
1. No evidence of an acute infarction. 
2. Chronic microangiopathy. 

TTE  ___
The left atrial volume index is normal. No atrial septal defect 
is seen by 2D or color Doppler. The estimated right atrial 
pressure is ___ mmHg. Mild symmetric left ventricular 
hypertrophy with normal cavity size, and regional/global 
systolic function (biplane LVEF = 68 %). The estimated cardiac 
index is normal (>=2.5L/min/m2). Tissue Doppler imaging suggests 
an increased left ventricular filling pressure (PCWP>18mmHg). 
The diameters of aorta at the sinus, ascending and arch levels 
are normal. The aortic valve leaflets (3) appear structurally 
normal with good leaflet excursion and no aortic stenosis or 
aortic regurgitation. The mitral valve appears structurally 
normal with trivial mitral regurgitation. The pulmonary artery 
systolic pressure could not be determined. There is a 
trivial/physiologic pericardial effusion. 

 IMPRESSION: Mild symmetric left ventricular hypertrophy with 
preserved regional and global biventricular systolic function. 
Increased PCWP. No definite structural cardiac source of 
embolism identified.

EEG ___:
IMPRESSION: This is an essential normal waking EEG. No focal 
abnormalities or epileptiform discharges are present. However, 
we could not adequately assess 
the left hemisphere as it was obscured by muscle artifacts. If 
clinically 
indicated, repeat EEG with sleep recording may provide 
additional information. 

 
Brief Hospital Course:
Ms. ___ is a ___ year old female with hypertension and CAD 
who presented with an episode of decreased responsiveness, 
confusion, babbling speech, HA, and vomiting, treated with IV 
tPA at an outside hospital for concern it may have been an acute 
stroke. 

# Transient encephalopathy: She has since recovered well and 
brain MRI showed no stroke. This episode may have been 
hypertensive encephalopathy or hypertensive emergency given the 
HA, vomiting, encephalopathy, and severe HTN to 220s systolic. 
The DDx also includes TIA and seizure. However, no seizure 
activity was seen. It would also be unusual to have such 
significant deficits from brain ischemia w/out residual evidence 
on brain MRI; furthermore, her deficits as documented at OSH are 
not particularly localizing and could be more reflective of a 
global encephalopathy.
TIA workup was done with A1c, lipids, and echo. A routine EEG 
was obtained for seizure workup. Her BP was controlled. 
 
# HTN: Patient endorsed being non-compliant with her BP meds at 
home and had not taken them for ~1 month. Her home BP meds were 
restarted slowly and she was discharged on her home meds, to 
follow up with new PCP ___ ___ weeks.

# HLD: continued home Crestor
   
# Hypothyroidism: continued home levothyroxine

 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Aspirin 325 mg PO DAILY 
2. Calcium 500 + D (calcium carbonate-vitamin D3) unknown  oral 
as directed 
3. Rosuvastatin Calcium 20 mg PO QPM 
4. Levothyroxine Sodium 50 mcg PO 6X/WEEK (___) 
5. Levothyroxine Sodium 50 mcg PO 1X/WEEK (MO) 
6. Chlorthalidone 25 mg PO DAILY 
7. Lisinopril 40 mg PO DAILY 
8. Metoprolol Succinate XL 100 mg PO DAILY 

 
Discharge Medications:
1. Aspirin 325 mg PO DAILY 
2. Levothyroxine Sodium 50 mcg PO 6X/WEEK (___) 
RX *levothyroxine 50 mcg 1 tablet(s) by mouth 1 tab daily, 2 
tabs every ___ Disp #*35 Tablet Refills:*0
3. Levothyroxine Sodium 50 mcg PO 1X/WEEK (MO) 
4. Lisinopril 40 mg PO DAILY 
RX *lisinopril 40 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0
5. Rosuvastatin Calcium 20 mg PO QPM 
RX *lovastatin 20 mg 1 tablet(s) by mouth every night Disp #*30 
Tablet Refills:*0
6. Calcium 500 + D (calcium carbonate-vitamin D3) 1 pill ORAL AS 
DIRECTED 
7. Chlorthalidone 25 mg PO DAILY 
RX *chlorthalidone 25 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0
8. Metoprolol Succinate XL 100 mg PO DAILY 
RX *metoprolol succinate 100 mg 1 tablet(s) by mouth daily Disp 
#*30 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Hypertensive Encephalopathy

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the hospital after an episode of confusion, 
headache, and vomiting. Your blood pressure was very high when 
you presented to the hospital in the context of not taking blood 
pressure medications daily. 

An MRI of your brain showed that you did NOT have a stroke. An 
EEG (tracing of electricity in your brain) showed that this 
episode was not due to seizures. 

During your evaluation for stroke risk factors, we found that 
your cholesterol is high and restarted your Crestor. You should 
take your crestor and your aspirin every day to decrease the 
risk of strokes. We have restarted your home blood pressure 
medications. Please continue to take them every day as 
prescribed.

It was a pleasure taking care of you. We wish you all the best!
Sincerely,
Your ___ Team
 
Followup Instructions:
___